US07595327B2
To a solution of 152 mg (0.24 mmol) of cis-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]-1-(methylsulfonyl)pyrrolidine-3-carboxylic acid and 97.3 mg (0.72 mmol) of 1-hydroxybenzotriazole in 3 mL of N,N-dimethylformamide at 0° C. was added 138 mg (0.72 mmol) of 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride. The reaction mixture was stirred at room temperature for 1.5 h. To the 0° C. reaction mixture was added 0.12 mL of 50% hydroxylamine solution. The resulting reaction mixture was stirred at room temperature for 18 h. The volatile materials were removed under reduced pressure below 40° C. The residue was dissolved in 80 mL of ethyl acetate. The organic layer was washed with a saturated sodium bicarbonate solution (5×30 mL) and a saturated sodium chloride solution (2×30 mL), dried over sodium sulfate and filtered. After removal of the ethyl acetate, the residue was triturated with a 7:3 hexane:ethyl acetate mixture to give 114.1 mg of cis-N-hydroxy-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]-1-(methylsulfonyl)pyrrolidine-3-carboxamide as a yellow solid in 89% yield. MS: 535.2 (M+H)+

reactant | cis-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]-1-(methylsulfonyl)pyrrolidine-3-carboxylic acid | 0.24 mmol, 152 mg | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1[C@@H](CN(C1)S(=O)(=O)C)C(=O)O | C23H25N3O7S2
reactant | 1-hydroxybenzotriazole | 0.72 mmol, 97.3 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.72 mmol, 138 mg | Cl.CN(CCCN=C=NCC)C
reactant | hydroxylamine | 0.12 mL | NO | H3NO
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | cis-N-hydroxy-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]-1-(methylsulfonyl)pyrrolidine-3-carboxamide | 114.1 mg, 89% yield | ONC(=O)[C@@H]1CN(C[C@@H]1NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)S(=O)(=O)C | C23H26N4O7S2
